US07566803B2
Preparation of 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]propyl}-N-(2-methanesulfonylethyl)-2-methylbenzamide
To a mixture of 4-(1-{4-[2-(hydroxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzoic acid, Example 1, (0.53 g, 1.29 mmol), 2-aminoethylmethylsulfone hydrochloride (0.21 g, 1.29 mmol), HOBt (0.19 g, 1.43 mmol), Et3N (0.72 mL, 5.19 mmol) and CH2Cl2 (10 mL) is added EDCI (0.249 g, 1.29 mmol) and stirred overnight. The reaction is diluted with CH2Cl2 (50 mL), washed with 1M HCl (2×30 mL), H2O (20 mL), satd NaHCO3 (2×20 mL), and brine (20 mL). The organic layer is MgSO4 dried, concentrated, and chromatographed (75% EtOAc/Hex) to give the title compound (0.51 g, 76%).

reactant | 4-(1-{4-[2-(hydroxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzoic acid | OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C(=O)O)C=C1)C)C)C(C)(C)C | C26H36O4
reactant | 2-aminoethylmethylsulfone hydrochloride | 1.29 mmol, 0.53 g | Cl.NCCS(=O)(=O)C
reactant | HOBt | 1.43 mmol, 0.19 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 5.19 mmol, 0.72 mL | CCN(CC)CC | C6H15N
reactant | EDCI | 1.29 mmol, 0.249 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]propyl}-N-(2-methanesulfonylethyl)-2-methylbenzamide | 0.51 g, 76% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C(=O)NCCS(=O)(=O)C)C=C1)C | C29H43NO5S
